US05116843
8,8-Dimethyl-2-(4-pyridyl)-5,6,7,8-tetrahydro-1H-imidazo[4,5-g]isoquinolin-5-one
45 g. (186 mmole) of the above compound were nitrated in 300 ml. concentrated sulphuric acid at 0° C. by dropping in nitration acid (8.5 ml. 96% nitric acid +30 ml. concentrated sulphuric acid). After completion of the addition, the reaction mixture was further stirred for 3 hours at 25° C., poured on to ice, filtered off with suction and recrystallized from 400 ml. glacial acetic acid. The crystallizate contained the false isomer (24 g.). The filtrate was evaporated and the residue boiled with 200 ml. ethanol and 40 ml. concentrated hydrochloric acid for 20 hours, evaporated, mixed with water, neutralized, extracted with methylene chloride, dried and evaporated. The residue was purified by column chromatography (silica gel, elution agent: ethyl acetate/methylene chloride; 1:10 v/v to 1:1 v/v) to give 11 g. (25% of theory) 4,4-dimethyl-6-nitro-7-amino-1,2,3,4-tetrahydroisoquinolin-1-one; m.p. 231°-234° C.

reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 4,4-dimethyl-6-nitro-7-amino-1,2,3,4-tetrahydroisoquinolin-1-one | CC1(CNC(C2=CC(=C(C=C12)[N+](=O)[O-])N)=O)C | C11H13N3O3
solvent | nitric acid | +30 ml | [N+](=O)(O)[O-] | HNO3
product | 8,8-Dimethyl-2-(4-pyridyl)-5,6,7,8-tetrahydro-1H-imidazo[4,5-g]isoquinolin-5-one | CC1(CNC(C=2C=C3C(=CC12)NC(=N3)C3=CC=NC=C3)=O)C | C17H16N4O
